US06562828B1
7-Methoxynaphthalene-2-carbonitrile
To a solution of 7-methoxy-2-trifluoromethanesulfonyloxynaphthalene (2.23 g) in dimethylformamide (8.9 ml) were added zinc cyanide (598 mg) and tetrakis(triphenylphosphine) palladium (337 mg) at room temperature, and the mixture was stirred at 80° C. for 1 hour. After completion of the reaction, water and ethyl acetate were added and insoluble material was removed. The organic layer was separated and concentrated, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1) and dried under reduced pressure to give the title compound (965 mg).

reactant | 7-methoxy-2-trifluoromethanesulfonyloxynaphthalene | 2.23 g | COC1=CC=C2C=CC(=CC2=C1)OS(=O)(=O)C(F)(F)F | C12H9F3O4S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 8.9 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 598 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium | 337 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-Methoxynaphthalene-2-carbonitrile | 965 mg | COC1=CC=C2C=CC(=CC2=C1)C#N | C12H9NO
